US04826866
3-[(2,6-Diethylphenyl)amino]-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride[1:1]
A stirred slurry of 9.4 g (0.05 mole) of 4-(2,6-diethylphenyl)-3-thiosemicarbazide in 75 mL of absolute ethanol was treated with 8.25 g (0.05 mole) of ethyl 2-chloroacetoacetate. The reaction mixture was stirred at ambient temperature as the color changed from white to yellow then to a greenish-white. The reaction mixture was treated with 40 mL of 2N ethanolic hydrogen chloride, heated at reflux for 1 hr then filtered hot. The filtrate upon cooling yielded a pale yellow solid, 16 g. Recrystallization from benzene/ligroin gave 15.5 g of white granular solid which was dried at 82+ C. under high vacuum for 3 hr, mp 167°-170° C. Elemental analysis and its 1H NMR spectrum indicated the product was a hydrochloride salt.

reactant | 4-(2,6-diethylphenyl)-3-thiosemicarbazide | 0.05 mole, 9.4 g | C(C)C1=C(C(=CC=C1)CC)NC(NN)=S | C11H17N3S
reactant | ethyl 2-chloroacetoacetate | 0.05 mole, 8.25 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 40 mL | Cl | ClH
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 3-[(2,6-Diethylphenyl)amino]-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride | 15.5 g | Cl.C(C)C1=C(C(=CC=C1)CC)NC1=NNC(=C1C(=O)OCC)C | InChI=1S/C17H23N3O2.ClH/c1-5-12-9-8-10-13(6-2)15(12)18-16-14(11(4)19-20-16)17(21)22-7-3;/h8-10H,5-7H2,1-4H3,(H2,18,19,20);1H
